US04039558
2-amino-3-oxo-1,2,3,13b-tetrahydro-9H-pyrrolo[1,2-a]-dibenzo[c,f] azepine
To 34,5 g of 2-acetylamino-2-ethoxycarbonyl-3-oxo-1,2,3,13b-tetrahydro-9H-pyrrolo[1,2-a]-dibenzo[c,f] azepine (oil, Rf in toluene: ethanol (9:2) = 0.5) are added 170 ml water and 10 ml concentrated H2SO4. The mixture is refluxed at 130° C. for 18 hours, then cooled down and made alcaline with KOH. The mixture is extracted wtih methylenechloride and the extracts washed with water, dried and evaporated. Melting point 186°-188° C. Yield 97%.

reactant | 2-acetylamino-2-ethoxycarbonyl-3-oxo-1,2,3,13b-tetrahydro-9H-pyrrolo[1,2-a]-dibenzo[c,f] azepine | 34,5 g | C(C)(=O)NC1(CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)C1=O)C(=O)OCC | C22H22N2O4
reactant | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
reactant | KOH | [OH-].[K+]
solvent | water | 170 ml | O | H2O
product | 2-amino-3-oxo-1,2,3,13b-tetrahydro-9H-pyrrolo[1,2-a]-dibenzo[c,f] azepine | Yield 97% | NC1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)C1=O | C17H16N2O
